US04304728
A solution of bromine (10.25 ml, 0.198 mol) in chloroform (50 ml) was added dropwise over 30 minutes to a stirred solution of ethyl 6-phenyl-2,4,6-trioxohexanoate (52.0 g) in chloroform (400 ml) at -10° to -20° C. The pale solution was stirred for a further 3 hours without cooling, washed with water and evaporated. The residual solid was recrystallised from ethanol-water to give ethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate (mp 135° C.). This ester was hydrolysed as in Example 33 to give the title product (mp 247° C. with decomposition).

reactant | bromine | 0.198 mol, 10.25 ml | BrBr | Br2
reactant | ethyl 6-phenyl-2,4,6-trioxohexanoate | 52.0 g | C1(=CC=CC=C1)C(CC(CC(C(=O)OCC)=O)=O)=O | C14H14O5
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OCC | C14H11BrO4
